US05455260
To a solution of 1-iodo-3-(2-phenylethoxy)propane (0.566 g; 1.95 mmol) in dry THF (9 ml) is added 2-[4-(benzoxazol-2-yl)benzyloxy]ethylamine hydrochloride (0.59 g; 1.9 mmol). NaH (78 mg; 1.9 mmol) is then added at room temperature. The reaction mixture is heated at reflux for 30 minutes, then cooled, concentrated in vacuo, and the residue column chromatographed with 10% MeOH/CH2Cl2The product is dissolved in EtOH acidified with HCl/EtOH concentrated to a solid and recrystallized from CH2Cl2 /petroleum ether to obtain N-[2-(4-(benzoxazol-2-yl)benzyloxy)ethyl]-3-(2-phenylethoxy)propanamine hydrochloride. (m.p. 134°-135° C.).

reactant | 1-iodo-3-(2-phenylethoxy)propane | 1.95 mmol, 0.566 g | ICCCOCCC1=CC=CC=C1 | C11H15IO
reactant | 2-[4-(benzoxazol-2-yl)benzyloxy]ethylamine hydrochloride | 1.9 mmol, 0.59 g | Cl.O1C(=NC2=C1C=CC=C2)C2=CC=C(COCCN)C=C2
reactant | NaH | 1.9 mmol, 78 mg | [H-].[Na+]
solvent | THF | 9 ml | C1CCOC1 | C4H8O
product | N-[2-(4-(benzoxazol-2-yl)benzyloxy)ethyl]-3-(2-phenylethoxy)propanamine hydrochloride | Cl.O1C(=NC2=C1C=CC=C2)C2=CC=C(COCCNCCCOCCC1=CC=CC=C1)C=C2 | InChI=1S/C27H30N2O3.ClH/c1-2-7-22(8-3-1)15-19-30-18-6-16-28-17-20-31-21-23-11-13-24(14-12-23)27-29-25-9-4-5-10-26(25)32-27;/h1-5,7-14,28H,6,15-21H2;1H
